US05128448
Cyclooctanepropanoic acid
To a solution of the crude cyclooctanepropanoic acid, ethyl ester in ethanol (200 mL) was added KOH (20 g). The resulting mixture was heated to reflux for 1.25 h, cooled to room temperature, and concentrated to remove the bulk of the ethanol. To the residue was added water (250 mL) and the solution was washed with CH2Cl2 (2×200 mL, discarded). The aqueous solution was made acidic with concentrated HCl (30 mL), with ice added to keep the mixture near room temperature. The solution was extracted with CH2Cl2 (3×200 mL), and the extracts were washed with brine, dried over MgSO4, and concentrated to give crude cyclooctanepropanoic acid (11.45 g) as a colorless oil. An 0.72-g portion was evaporatively distilled to give 0.69 g of pure acid, bp 165° C./0.5 torr.

reactant | cyclooctanepropanoic acid, ethyl ester | C1(CCCCCCC1)CCC(=O)OCC | C13H24O2
reactant | KOH | 20 g | [OH-].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | Cyclooctanepropanoic acid | 0.69 g | C1(CCCCCCC1)CCC(=O)O | C11H20O2
